US08455534B2
Step 2: 5-Bromo-4-chloro-1H-indazole
To a solution of 4-bromo-3-chloro-2-methylaniline (11 g, 49.9 mmol) in CH3CO2H (450 mL) was added NaNO2 (5.4 g, 78.3 mmol) in H2O (15 mL) at 10° C. The resulting mixture was stirred at room temperature for 30 minutes. Upon completion, the reaction mixture was diluted with H2O (500 mL) and extracted with EtOAc. The organic layer was dried over Na2SO4 and concentrated in vacuo. The residue was triturated with petroleum ether affording the title compound (4.5 g) as yellow solid. 1H NMR (400 MHz, DMSO-d6): δ 13.60 (s, 1H), 8.15 (s, 1H), 7.62 (d, 1H), 7.52 (d, 1H).

reactant | 4-bromo-3-chloro-2-methylaniline | 49.9 mmol, 11 g | BrC1=C(C(=C(N)C=C1)C)Cl | C7H7BrClN
reactant | NaNO2 | 78.3 mmol, 5.4 g | N(=O)[O-].[Na+]
solvent | CH3CO2H | 450 mL | CC(=O)O | C2H4O2
solvent | H2O | 15 mL | O | H2O
solvent | H2O | 500 mL | O | H2O
product | 5-Bromo-4-chloro-1H-indazole | BrC=1C(=C2C=NNC2=CC1)Cl | C7H4BrClN2
